US07601716B2
3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-methoxybenzyl)-N-methylbenzamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with N-methyl-2-methoxybenzylamine as in General Procedure 10 to give the title compound. LCMS: m/z=580.94 (M+H+); retention time=0.96 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | N-methyl-2-methoxybenzylamine | CNCC1=C(C=CC=C1)OC | C9H13NO
product | 3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-methoxybenzyl)-N-methylbenzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)N(C)CC2=C(C=CC=C2)OC)C=CC3)C1)C(F)(F)F | C31H28ClF3N4O2
